US04289914
PREPARATION OF 2,6-DIMETHYL-2,6-bis(t-BUTYLPEROXY)-4-HEPTANONE (SULFURIC ACID METHOD)
A mixture of 6.9 g. (0.05 mole) of phorone and 23.2 g. (0.2 mole) of anhydrous 81% t-butyl hydroperoxide was diluted with 50 ml of pentane and the mixture stirred at 10° C., while 5.7 g. of 77% sulfuric acid solution was slowly added over at thirty minute time period. The mixture was then allowed to warm slowly to 25° C. and stirred for 72 hours. After the reaction mixture was washed with water and sodium bisulfite solution, it was dried over anhydrous magnesium sulfate, the drying agent separated and the pentane removed under reduced pressure. The product weighed 11.4 g. (71.7% of the calculated amount). The infrared spectrum showed a strong absorption in the 880 cm-1 region, usually associated with t-butylperoxy groups and no absorption in the regions ascribed to hydroxyl or olefin. A GLC scan showed one large major peak for the expected product. By active oxygen assay, the purity of the product was estimated at 93%.

reactant | phorone | 0.05 mole | CC(C)=CC(C=C(C)C)=O | C9H14O
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | pentane | 50 ml | CCCCC | C5H12
product | 2,6-DIMETHYL-2,6-bis(t-BUTYLPEROXY)-4-HEPTANONE | CC(C)(CC(CC(C)(OOC(C)(C)C)C)=O)OOC(C)(C)C | C17H34O5
